US03932427
A mixture of 2-(3-aminopropylamino)pyridine (6 g.) and benzoyl isothiocyanate (6.0 g.) in chloroform (150 ml.) is heated under reflux for one hour and concentrated to give N-benzoyl-N'-[3-(2-pyridylamino)propyl]thiourea. The benzoyl thiourea is added to a solution of potassium carbonate (1.4 g.) in water (80 ml.) at 60°. The solution is maintained at this temperature for 1 hour, concentrated to low bulk and acidified with hydrochloric acid. Benzoic acid is removed by filtration and the filtrate is basified with potassium carbonate and concentrated under reduced pressure. Following extraction with isopropyl alcohol and concentration, the title product is obtained.

reactant | 2-(3-aminopropylamino)pyridine | 6 g | NCCCNC1=NC=CC=C1 | C8H13N3
reactant | benzoyl isothiocyanate | 6.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzoyl-N'-[3-(2-pyridylamino)propyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCCNC1=NC=CC=C1 | C16H18N4OS
